US04659502
A mixture of 38.4 g of 1-(trans-4-n-propylcyclohexyl)-2-(4'-bromo-2'-fluorobiphenyl-4-yl)-ethane (M.p. 61.1°, C.p. 114.7°), 10 g of Cu2 (CN)2, 120 ml of pyridine and 60 ml of N-methylpyrrolidone is heated at 160° for 2 hours. The mixture is cooled, a solution of 120 g of FeCl3.6H2O in 600 ml of 20% hydrochloric acid is added and the mixture is warmed at 70° for 1.5 hours, with stirring, and worked up in the customary manner to give 1-(trans-4-n-propylcyclohexyl)-2-(4'-cyano-2'-fluorobiphenyl-4-yl)-ethane, M.p. 89.4°, C.p. 168.4°.

reactant | 1-(trans-4-n-propylcyclohexyl)-2-(4'-bromo-2'-fluorobiphenyl-4-yl)-ethane | 38.4 g | C(CC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)Br)F | C23H28BrF
reactant | (CN)2 | C(#N)C#N | C2N2
reactant | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
reactant | N-methylpyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
solvent | hydrochloric acid | 600 ml | Cl | ClH
product | 1-(trans-4-n-propylcyclohexyl)-2-(4'-cyano-2'-fluorobiphenyl-4-yl)-ethane | C(CC)[C@@H]1CC[C@H](CC1)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)C#N)F | C24H28FN
